US07592373B2
4.273.c. 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[3-methoxy-4-(2-morpholin-4-ylethoxy)phenyl]amide
Prepared analogously to Example 2.3.f. from (2-chloro-4-trifluoromethylphenyl)propynoic acid and 3-methoxy-4-(2-morpholin-4-ylethoxy)phenylamine. Yield: 20 mg (6.9% of theory); melting point: 209° C.-211° C.; C23H22ClF3N2O4 (M=482.89); calc.: molecular ion peak (M+H)+: 483/485; found: molecular ion peak (M+H)+: 483/485; Rf value: 0.5 (silica gel, dichloromethane/methanol (9:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | 3-methoxy-4-(2-morpholin-4-ylethoxy)phenylamine | COC=1C=C(C=CC1OCCN1CCOCC1)N | C13H20N2O3
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[3-methoxy-4-(2-morpholin-4-ylethoxy)phenyl]amide | COC=1C=C(C=CC1OCCN1CCOCC1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C23H22ClF3N2O4
